US08580957B2
[2-amino-5-(methyloxy)phenyl](4-chlorophenyl)methanone
To a solution of 2-methyl-6-(methyloxy)-4H-3,1-benzoxazin-4-one (for a preparation see Reference compound A) (40.0 g, 0.21 mol) in a toluene/ether (2/1) mixture (760 mL) at 0° C. was added dropwise a solution of 4-chlorophenylmagnesium bromide (170 mL, 1M in Et2O, 0.17 mol). The reaction mixture was allowed to warm to room temperature and stirred for 1 h before being quenched with 1N HCl (200 mL). The aqueous layer was extracted with EtOAc (3×150 mL) and the combined organics were washed with brine (100 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The crude compound was then dissolved in EtOH (400 mL) and 6N HCl (160 mL) was added. The reaction mixture was refluxed for 2 h before being concentrated to one-third in volume. The resulting solid was filtered and washed twice with ether before being suspended in EtOAc and neutralised with 1N NaOH. The aqueous layer was extracted with EtOAc (3×150 mL) and the combined organics were washed with brine (150 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The title compound was obtained as a yellow solid (39 g, 88% yield); LC/MS (Method D): m/z 262 [M+H]+, Rt 2.57 min.

reactant | 2-methyl-6-(methyloxy)-4H-3,1-benzoxazin-4-one | CC1=NC2=C(C(O1)=O)C=C(C=C2)OC | C10H9NO3
reactant | 4-chlorophenylmagnesium bromide | 0.17 mol, 1M, 170 mL | ClC1=CC=C(C=C1)[Mg]Br
solvent | toluene ether | C1(=CC=CC=C1)C.CCOCC
product | [2-amino-5-(methyloxy)phenyl](4-chlorophenyl)methanone | NC1=C(C=C(C=C1)OC)C(=O)C1=CC=C(C=C1)Cl | C14H12ClNO2
